US09163021B2
Methyl 2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)-2-methylpropanoate
To a solution of 2-(3-iodo-pyrrolo[3,2-c]pyridine-1-yl)-propionic acid methyl ester (Preparation 57, 13.1 g, 39.7 mmol) in THF (15 mL) was added methyl iodide (2.96 mL, 47.6 mmol) followed immediately by a 1M solution of potassium tertbutoxide in THF (5.34 g, 47.6 mmol) and the reaction was stirred at room temperature for 15 minutes. The reaction was quenched with water, and the remaining THF removed in vacuo. The residue was extracted with EtOAc, dried and concentrated in vacuo to afford the title compound as a yellow solid (5.1 g, 37%).

reactant | 2-(3-iodo-pyrrolo[3,2-c]pyridine-1-yl)-propionic acid methyl ester | 39.7 mmol, 13.1 g | COC(C(C)N1C=C(C=2C=NC=CC21)I)=O | C11H11IN2O2
reactant | methyl iodide | 47.6 mmol, 2.96 mL | CI | CH3I
reactant | potassium tertbutoxide | CC(C)([O-])C.[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 47.6 mmol, 5.34 g | C1CCOC1 | C4H8O
product | Methyl 2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)-2-methylpropanoate | 5.1 g, 37% | IC1=CN(C2=C1C=NC=C2)C(C(=O)OC)(C)C | C12H13IN2O2
